2187-04-19 10:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   45 y/o m who p/w painless jaundive over last month. Initially AST and
   ALT in [**2178**] Tbili 26 DB 17.5  AP 176. Negative hep serologies.
   Hepatologist referred for biopsy which showed hepatocyte necrosis, most
   c/w viral or drug. Then over last 2 weeks Cr has been increasing with
   INR up to 2.5.
   RUQ U/S showed GB wall thickening with ascites.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-4-19**] 08:14 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-4-19**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 75 (73 - 81) bpm
   BP: 152/91(103) {131/70(87) - 159/93(106)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             1,730 mL
   PO:
             230 mL
   TF:
   IVF:
   1,500 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    800 mL
   Urine:
   800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    930 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : L base)
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, no aterixis
   Labs / Radiology
   15.2 g/dL
   456 K/uL
   71 mg/dL
   3.5 mg/dL
   17 mEq/L
   3.7 mEq/L
   56 mg/dL
   102 mEq/L
   137 mEq/L
   43.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2187-4-19**]  02:39 AM
   WBC
   13.8
   Hct
   43.6
   Plt
   456
   Cr
   3.5
   Glucose
   71
   Other labs: PT / PTT / INR:32.1/57.5/3.3, ALT / AST:4305/5628, Alk Phos
   / T Bili:150/47.6, Lactic Acid:2.1 mmol/L, Albumin:3.4 g/dL, LDH:883
   IU/L, Ca++:9.8 mg/dL, Mg++:2.9 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   1. Liver failure: Unclear etiology, s/p liver bx
   -f/u serologies
   -transplant recs
   -call renal tx team as well
   -send heavy metals
   -24h urine copper
   -TTE
   -obtain path slides from [**Hospital 4179**]Hospital
   -question MRCP, discuss with liver
   2. ARF: Appears to have some urinary retention
   -will place Foley
   -urine lytes
   -urine prot/cr
   3. FEN: Diet
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2187-4-18**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the patient, and was present with the ICU team for
   key portions of the services provided. I would add the following: 45 yo
   male with onset of painless jaundice over the past 6 weeks with
   development of liver cirrhosis. Development of coagulopathy and renal
   failure over the past 2 weeks.  Minimal change in urine output with
   IVF- Foley placed. Etiology of liver cirrhosis possibly toxin vs. viral
   by OSH biopsy. Undergoing transplant eval and re-review of path slides.
   Appears appropriate for floor transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2187-4-19**] 17:52 ------